US04920125
A Parr flask was charged with 4.00 g of methyl 4-(4-hydroxybut-1-yn-1-yl)thien-2-ylcarboxylate in 100 mL of ethanol. Then 2.00 g (50% wt eq) of 5% palladium on charcoal was added. Parr hydrogenation was carried out at 50 psi of hydrogen for 6 hours. The reaction mixture was filtered through a Celite pad which was washed with ethanol. The filtrate was concentrated under reduced pressure to give 3.34 g (81.9%) of methyl 4-(4-hydroxybutyl)thien-2-ylcarboxylate as a clear oil; IR (KBr, cm-1): 1710, 1444, 1293, 1260, 1225; UV (Ethanol) :λmax =281 nm (epsilon=6450), 248 nm (epsilon=10,100); 1H NMR (CDCl3, 300 MHz) delta 7.59 (s, 1H), 7.12, (s, 1H), 3.81 (s, 3H), 3.60 (t, J=6.3 Hz, 2H), 2.59 (t, J=7.4 Hz, 2H), 2.10 (bs, 1H), 1.60-1.68 (m, 2H), 1.51-1.58 (m, 2H); MASS: M+ =2148 (EICEC).

reactant | methyl 4-(4-hydroxybut-1-yn-1-yl)thien-2-ylcarboxylate | 4.00 g | OCCC#CC=1C=C(SC1)C(=O)OC | C10H10O3S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.00 g | [Pd] | Pd
product | methyl 4-(4-hydroxybutyl)thien-2-ylcarboxylate | 3.34 g, 81.9% | OCCCCC=1C=C(SC1)C(=O)OC | C10H14O3S
